US06451804B1
Oxidation of the 7-benzylthio-3-(2-chlorophenyl)-1-(2-diethylaminoethyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one was accomplished using 3-chloroperoxybenzoic acid (0.339 g, 1.96 mmol) in dichloromethane with stirring at room temperature for 1 hour. The reaction was quenched with 10% sodium sulfite solution (aq, 5 mL), poured into saturated aqueous sodium bicarbonate, and extracted with dichloromethane. The combined extracts were dried with magnesium sulfate and concentrated in vacuo to provide 7-benzylsulfinyl-3-(2-chlorophenyl)-1-(2-diethylamino-ethyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one, which was used without purification.

reactant | 7-benzylthio-3-(2-chlorophenyl)-1-(2-diethylaminoethyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | C(C1=CC=CC=C1)SC1=NC=C2C(=N1)N(C(N(C2)C2=C(C=CC=C2)Cl)=O)CCN(CC)CC | C25H28ClN5OS
reactant | 3-chloroperoxybenzoic acid | 1.96 mmol, 0.339 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 7-benzylsulfinyl-3-(2-chlorophenyl)-1-(2-diethylamino-ethyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | C(C1=CC=CC=C1)S(=O)C1=NC=C2C(=N1)N(C(N(C2)C2=C(C=CC=C2)Cl)=O)CCN(CC)CC | C25H28ClN5O2S
